US05780648
[2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thien-3-yl][3-methylphenyl]methanone
1 g (3 mmol) of [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][3-methylphenyl]methanone was dissolved in 29 mL of CH2Cl2 and cooled to -70° C. To the stirring solution was added 20 mL of 1M BBr3 in CH2Cl2 in small portions over a ten minute period. The reaction was allowed to proceed under a nitrogen atmosphere, slowly warming to ambient temperature. After sixteen hours, the reaction was quenched by adding 1N NaOH and extracted with 200 mL of EtOAc. The EtOAc layer was separated and washed with water, dried by filtration through anhydrous Na2 SO4, and evaporation to dryness, in vaccuo. The crude product was purified by chromatography on a silica gel column eluted with EtOAc-hexane (1:4)(v/v). The product was rechromatographed on a silica gel column eluted with EtOAc-hexane (1:3)(v/v). This yielded 190 mg of the title compound as a yellow amorphous powder.

reactant | [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][3-methylphenyl]methanone | 3 mmol, 1 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC(=CC=C2)C | C24H20O3S
reactant | BBr3 | 1M, 20 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 29 mL | C(Cl)Cl | CH2Cl2
product | [2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thien-3-yl][3-methylphenyl]methanone | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)C(=O)C2=CC(=CC=C2)C | C22H16O3S
